US05952504
(B) 3-Butyryl-8-isopropyl-4-(2-methylphenylamino)-1,7-naphthyridine
By following a similar procedure described in Example 33(B) using 3-Butyryl-8-isopropyl-4-methanesulfonyloxy-1,7-naphthyridine (282 mg) and o-toluidine (0.17 ml) to give the titled compound (168 mg, 58%).

reactant | 3-Butyryl-8-isopropyl-4-methanesulfonyloxy-1,7-naphthyridine | 282 mg | C(CCC)(=O)C=1C=NC2=C(N=CC=C2C1OS(=O)(=O)C)C(C)C | C16H20N2O4S
reactant | o-toluidine | 0.17 ml | NC=1C(=CC=CC1)C | C7H9N
product | 3-Butyryl-8-isopropyl-4-(2-methylphenylamino)-1,7-naphthyridine | 168 mg, 58% | C(CCC)(=O)C=1C=NC2=C(N=CC=C2C1NC1=C(C=CC=C1)C)C(C)C | C22H25N3O
